US08008321B2
N-[3-(3-methoxy-4-nitrobenzoyl)imidazo[1,5-a]pyridin-6-yl]methanesulfonamide
0.107 ml (1.38 mmol) of mesyl chloride is added to 0.40 g (1.15 mmol) of (6-aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone hydrochloride in 10 ml of pyridine cooled to 5° C. and the mixture is allowed to return to ambient temperature and is stirred for 18 hours. The medium is taken up in 130 ml of 1N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with a saturated aqueous sodium chloride solution, then dried over sodium sulfate and concentrated under reduced pressure. The residue is taken up in isopropyl ether, filtered off, washed with isopropyl ether and then dried. 411 mg of a yellow solid are obtained. Melting point: 249° C.; 1H NMR (d6-DMSO): 3.14 (3H, s), 4.02 (3H, s), 7.39 (1H, d), 7.94 (1H, s), 8.02-8.11 (3H, m), 8.13 (1H, s), 9.88 (1H, s)

reactant | mesyl chloride | 1.38 mmol, 0.107 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | (6-aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone hydrochloride | 1.15 mmol, 0.40 g | Cl.NC=1C=CC=2N(C1)C(=NC2)C(=O)C2=CC(=C(C=C2)[N+](=O)[O-])OC
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 1N, 130 ml | Cl | ClH
product | N-[3-(3-methoxy-4-nitrobenzoyl)imidazo[1,5-a]pyridin-6-yl]methanesulfonamide | 411 mg | COC=1C=C(C(=O)C2=NC=C3N2C=C(C=C3)NS(=O)(=O)C)C=CC1[N+](=O)[O-] | C16H14N4O6S
